US05223539
N-cyclohexyl-N-cyclopentyl-4-(3,4,5-trimethoxyphenoxy)benzamide
The reaction and workup were carried out in the same manner as described in Example 1 using p-bromobenzoic acid N-cyclopentyl-N-cyclohexyl amide (2.285 g, 6.52 mmol), 3,4,5-trimethoxy phenol (1.199 g, 6.51 mmol) and cuprous oxide (486 mg, 3.40 mmol) in 2,4,6-collidine (15 ml). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 166.16° C. (DSC).

reactant | p-bromobenzoic acid N-cyclopentyl-N-cyclohexyl amide | 6.52 mmol, 2.285 g | C1(CCCC1)N(C(C1=CC=C(C=C1)Br)=O)C1CCCCC1 | C18H24BrNO
reactant | 3,4,5-trimethoxy phenol | 6.51 mmol, 1.199 g | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
solvent | 2,4,6-collidine | 15 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N-cyclohexyl-N-cyclopentyl-4-(3,4,5-trimethoxyphenoxy)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)OC1=CC(=C(C(=C1)OC)OC)OC)=O)C1CCCC1 | C27H35NO5
